US07488740B2
5. 2,4-Dichloro-6-methoxymethyl-3-nitro-pyridine
6-Methoxymethyl-3-nitro-pyridine-2,4-diol (725 mg, 3.63 mmol) is added to a solution of POCl3 (15 mL) at 0° C. The mixture is warmed to room temperature followed by heating at reflux for 5 hours. Excess POCl3 is removed under reduced pressure to yield a light brown oil. The crude oil is dissolved in CH2Cl2 (100 mL) and extracted with water (100 mL), NaHCO3 (100 mL), and brine (100 mL). The organic extract is dried over Na2SO4 and the solvent removed under reduced pressure. The crude product is chromatographed on silica gel eluting with hexanes/EtOAc (4:1) to yield the title compound as a light yellow oil.

reactant | 6-Methoxymethyl-3-nitro-pyridine-2,4-diol | 3.63 mmol, 725 mg | COCC1=CC(=C(C(=N1)O)[N+](=O)[O-])O | C7H8N2O5
reactant | POCl3 | 15 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,4-Dichloro-6-methoxymethyl-3-nitro-pyridine | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)COC | C7H6Cl2N2O3
